US05254563
3-Benzoyl-6-(5-bromopyridin-2-yloxy)-4-methoxymethyl-beta-carboline
332 mg of 3-benzoyl-6-hydroxy-4-methoxymethyl-beta-carboline and 130 mg of potassium hydroxide powder were mixed in 3 ml of dimethyl sulfoxide under argon with 285 mg of 2,5-dibromopyridine in 1 ml of dimethyl sulfoxide and heated for 1 hour to 90°-95° C. The reaction mixture was poured on ice water, acidified with 1N-acetic acid to pH 5 and shaken out with ethyl acetate. The ethyl acetate phase was washed with saturated common salt solution, dried on magnesium sulfate and concentrated by evaporation. After chromatography on silica gel with dichloromethane/ethyl acetate 1:1 as eluant and recrystallization from the main fraction from ethyl acetate/petroleum ether, the title compound with melting point 193°-194° C. was obtained.

reactant | 3-benzoyl-6-hydroxy-4-methoxymethyl-beta-carboline | 332 mg | C(C1=CC=CC=C1)(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)O | C20H16N2O3
reactant | potassium hydroxide | 130 mg | [OH-].[K+]
reactant | 2,5-dibromopyridine | 285 mg | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Benzoyl-6-(5-bromopyridin-2-yloxy)-4-methoxymethyl-beta-carboline | C(C1=CC=CC=C1)(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OC1=NC=C(C=C1)Br | C25H18BrN3O3
